US07087635B2
To a solution of [2-(7-cyanomethoxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (3.8 mmol) is added 2 N NaOH (10.0 mL, 20 mmol). The reaction mixture is reluxed for 2 hours. The reaction mixture is cooled to room temperature, evaporated to about 10 mL, acidified to pH 3.0 with 1 N HCl. The mixture is extracted with ethyl acetate (2×50 mL), the combined organic layer washed with brine and dried (Na2SO4). Evaporation to dryness afford [3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yloxy)-acetic acid (1.3 g, 95%). FDMS m/e=363.2 (M++1). To a solution of [3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yloxy]acetic acid (480 mg, 1.32 mmol) in dimethylformamide (5.0 mL) is added methyl amine (1.52 mL, 1.0 M in tetrahydrofuran, 1.52 mmol) and Bop reagents (670 mg, 1.52 mmol). The reaction mixture is stirred at room temperature for 3 hours before evaporation to dryness. The resulting residue is chromatographed (30% ethyl acetate/hexane) to give 500 mg of [1,1-dimethyl-2-(7-methylcarbamoylmethoxy-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester (75%). FDMS m/e=375.1 (M++1).

reactant | [3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yloxy]acetic acid | 1.32 mmol, 480 mg | C(C)(C)(C)OC(=O)NC(CC1=CNC2=C(C=CC=C12)OCC(=O)O)(C)C | C19H26N2O5
reactant | methyl amine | 1.52 mmol, 1.0 M, 1.52 mL | CN | CH5N
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | [1,1-dimethyl-2-(7-methylcarbamoylmethoxy-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 500 mg, 75% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)OCC(NC)=O)(C)C)=O | C20H29N3O4
